US06982278B2
2-{4-Butyl-3-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid ethyl ester
A mixture of 4-butyl-3-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenol (0.11 g, 0.313 mmol), ethyl bromoisobutyrate (0.18 mL, 1.25 mmol) and cesium carbonate (0.41 g, 1.25 mmol) in anhydrous DMF (2 mL) was heated for 18 h at 55° C. The mixture was concentrated in vacuo, and the residue was partitioned between EtOAc (50 mL) and water (40 mL), washed with brine, dried (Na2SO4), and removed in vacuo to give a crude oil which was purified using radial chromatography eluting with 5-15% EtOAc/Hex to give a yellow oil (0.12 g, 68%). 1H NMR (400 MHz, CDCl3) δ 7.97 (dd, J=7.6, 1,7 Hz, 2H), 7.45-7.39 (m, 3H), 6.90 (d, J=7.8 Hz, 1H), 6.45 (d, J=2.4 Hz, 1H), 6.29 (dd, J=8.3, 2.0 Hz, 1H), 4.25-4.17 (m, 4H), 2.97 (t, J=6.4 Hz, 2H), 2.47 (t, J=7.6 Hz, 2H), 2.37 (s, 3H), 1.56 (s, 6H), 1.43 (quintet, J=7.7 Hz, 2H), 1.30-1.22 (m, 5H), 0.86 (t, J=7.3 Hz, 3H), MS (ES) m/e 466 (M+1).

reactant | 4-butyl-3-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenol | 0.313 mmol, 0.11 g | C(CCC)C1=C(C=C(C=C1)O)OCCC=1N=C(OC1C)C1=CC=CC=C1 | C22H25NO3
reactant | ethyl bromoisobutyrate | 1.25 mmol, 0.18 mL | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | cesium carbonate | 1.25 mmol, 0.41 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-{4-Butyl-3-[2-(5-methyl-2-phenyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid ethyl ester | 0.12 g, 68% | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)CCCC)OCCC=1N=C(OC1C)C1=CC=CC=C1)=O | C28H35NO5
